US04762838
4-Chloro-5-(4-chlorophenoxy)-2-nitrobenzoic Acid
To 30 ml of dry diglyme under a nitrogen atmosphere was added 0.960 g (0.02 mol) of sodium hydride dispersion in mineral oil (50%). The solution was cooled to 10° C. and 1.28 g (0.01M) 4-chlorophenol in 15 ml of dry diglyme was added dropwise while maintaining the temperature at 10° C. This was followed by the dropwise addition of 2.36 g (0.01 mol) of 4,5-dichloro-2-nitrobenzoic acid in 15 ml of dry diglyme. The reaction mixture was then heated to 153° C. (oil bath) for 1 hour and 45 minutes. The reaction mixture was cooled to room temperature and poured into an ice/water mixture. The pH was then adjusted to 1.5 with 6N hydrochloric acid. The solution was extracted with ethyl acetate, and the organic layer dried over anhydrous magnesium sulfate. The solvent was removed and the crude solid triturated with hexane, followed by recrystallization from carbon tetrachloride to give the title compound: yield 1.65 g (50%) m.p. 160°-162° C.

reactant | sodium hydride | 0.02 mol, 0.960 g | [H-].[Na+]
reactant | 4-chlorophenol | 0.01M, 1.28 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 4,5-dichloro-2-nitrobenzoic acid | 0.01 mol, 2.36 g | ClC1=CC(=C(C(=O)O)C=C1Cl)[N+](=O)[O-] | C7H3Cl2NO4
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | diglyme | 15 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 15 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 30 ml | COCCOCCOC | C6H14O3
product | 4-Chloro-5-(4-chlorophenoxy)-2-nitrobenzoic Acid | ClC1=CC(=C(C(=O)O)C=C1OC1=CC=C(C=C1)Cl)[N+](=O)[O-] | C13H7Cl2NO5
